### PR TITLE
feat: first field after algebraically closed nimber

### PR DESCRIPTION
**Pull request by plp127**
We prove that if `t` is an algebraically closed nimber, then `∗(val t ^ (ω * (1 + val x)))` is a ring for `x < t`, and `∗(val t ^ (ω * (1 + val t)))` is a field. We compute `∗(val t ^ (ω * (1 + val x))) = (t - x)⁻¹`.

---
- [x] depends on: #365
- [x] depends on: #366
- [x] depends on: #367

### CODE REVIEW

File: CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean [hunk 1]
```diff
@@ -748,6 +755,10 @@ theorem oeval_le_oeval_iff {x : Nimber} {p q : Nimber[X]}
     (hpk : ∀ k, p.coeff k < x) (hqk : ∀ k, q.coeff k < x) : oeval x p ≤ oeval x q ↔ p ≤ q :=
   le_iff_le_iff_lt_iff_lt.2 (oeval_lt_oeval_iff hqk hpk)
 
+theorem oeval_eq_oeval_iff {x : Nimber} {p q : Nimber[X]}
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean]: Maybe?
```suggestion
theorem oeval_inj {x : Nimber} {p q : Nimber[X]}
```

File: CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean [hunk 2]
```diff
@@ -237,6 +237,13 @@ theorem IsField.eval_embed {x : Nimber} (h : IsField x) {p : Nimber[X]}
     (hp : ∀ k, p.coeff k < x) (y) : (h.embed p hp).eval y = ⟨_, h.eval_lt hp y.2⟩ := by
   simp [← Subtype.val_inj, embed, sum, eval_eq_sum]
 
+-- TODO: generalize to `Subring`
+theorem forall_coeff_mul_lt {x : Nimber} (h : IsRing x) {p q : Nimber[X]}
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean]: This already exists in this same file as `IsRing.coeff_mul_lt`

File: CombinatorialGames/Nimber/Transcendental/Field.lean [hunk 3]
```diff
@@ -0,0 +1,704 @@
...
+  rw [← opow_zero a, opow_lt_opow_iff_right h1a]
+  exact pos_of_ne_zero h.2
+
+public theorem Ordinal.exists_omega0_mul_add_natCast (o : Ordinal) :
+    ∃ a b, omega0 * a + Nat.cast b = o := by
+  obtain ⟨b, hb⟩ := lt_omega0.1 (mod_lt o omega0_ne_zero)
+  refine ⟨o / omega0, b, ?_⟩
+  rw [← hb, div_add_mod]
+
+public theorem Ordinal.one_le_of_lt {a b : Ordinal} (hab : a < b) : 1 ≤ b := by
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/Transcendental/Field.lean]: This can probably be generalized to `CanonicallyOrderedAdd` + `SuccAddOrder`

File: CombinatorialGames/Nimber/Transcendental/Field.lean [hunk 4]
```diff
@@ -0,0 +1,704 @@
...
+  refine ⟨ht.opow _, fun y z hy hz ↦ ?_, ne_of_gt (by simp [ht.one_lt])⟩
+  obtain ⟨py, hyd, rfl⟩ := eq_oeval_of_lt_opow_omega0 hy
+  obtain ⟨pz, hzd, rfl⟩ := eq_oeval_of_lt_opow_omega0 hz
+  rw [← ht.eval_eq_of_lt hyd, ← ht.eval_eq_of_lt hzd, ← eval_mul, ht.eval_eq_of_lt]
+  on_goal 1 => apply oeval_lt_opow_omega0
+  all_goals exact forall_coeff_mul_lt ht.toIsRing hyd hzd
+
+-- not an instance because `ht` is not inferrable
+@[expose]
+abbrev algebraOpowOmega0 : Algebra ht.toIsField.toSubfield ht.isRing_opow_omega0.toSubring :=
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/Transcendental/Field.lean]:
```suggestion
abbrev algebraOpowOmega0 : Algebra ht.toSubfield ht.isRing_opow_omega0.toSubring :=
```

File: CombinatorialGames/Nimber/Transcendental/Field.lean [hunk 5]
```diff
@@ -0,0 +1,704 @@
...
+
+public noncomputable section
+
+open Ordinal Polynomial
+namespace Nimber.IsAlgClosed
+
+variable {t : Nimber.{u}} (ht : IsAlgClosed t)
+include ht
+
+theorem isRing_opow_omega0 : IsRing (of (val t ^ ω)) := by
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/Transcendental/Field.lean]: This should probably go in the `Algebraic` file, right below `IsField.pow_degree_leastNoRoots`

File: CombinatorialGames/Nimber/Transcendental/Field.lean [hunk 6]
```diff
@@ -0,0 +1,704 @@
...
+  refine ⟨ht.opow _, fun y z hy hz ↦ ?_, ne_of_gt (by simp [ht.one_lt])⟩
+  obtain ⟨py, hyd, rfl⟩ := eq_oeval_of_lt_opow_omega0 hy
+  obtain ⟨pz, hzd, rfl⟩ := eq_oeval_of_lt_opow_omega0 hz
+  rw [← ht.eval_eq_of_lt hyd, ← ht.eval_eq_of_lt hzd, ← eval_mul, ht.eval_eq_of_lt]
+  on_goal 1 => apply oeval_lt_opow_omega0
+  all_goals exact forall_coeff_mul_lt ht.toIsRing hyd hzd
+
+-- not an instance because `ht` is not inferrable
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/Transcendental/Field.lean]: Can you add a proper docstring? It's a bit hard to read out the type signature, maybe "if `t` is algebraically closed, `t ^ ω` is an algebra over `t`"

File: CombinatorialGames/Nimber/Transcendental/Field.lean [hunk 7]
```diff
@@ -0,0 +1,704 @@
...
+@[expose]
+abbrev algebraOpowOmega0 : Algebra ht.toIsField.toSubfield ht.isRing_opow_omega0.toSubring :=
+  (Subring.inclusion (Set.Iio_subset_Iio (val_le_iff.1 (left_le_opow _ omega0_pos)))).toAlgebra
+
+theorem algebraOpowOmega0ScalarTower :
+    letI := ht.algebraOpowOmega0
+    IsScalarTower ht.toIsField.toSubfield ht.isRing_opow_omega0.toSubring Nimber :=
+  @IsScalarTower.mk _ _ _ (_) _ _ fun _ _ _ => mul_assoc _ _ _
+
+def algEquivPolynomial :
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/Transcendental/Field.lean:77]: This also desperately needs a docstring.

File: CombinatorialGames/Nimber/Transcendental/Field.lean [hunk 8]
```diff
@@ -0,0 +1,704 @@
...
+    · intro y
+      obtain ⟨y, hy⟩ := y
+      obtain ⟨py, hyd, rfl⟩ := eq_oeval_of_lt_opow_omega0 hy
+      refine ⟨ht.toIsField.embed py hyd, ?_⟩
+      rw [aeval_def, eval₂_eq_eval_map, ← ht.isRing_opow_omega0.toSubring.subtype_injective.eq_iff,
+        ← eval_map_apply, map_map]
+      change eval t (map ht.toIsField.toSubfield.subtype (ht.toIsField.embed py hyd)) = oeval t py
+      rw [ht.toIsField.map_embed, ht.eval_eq_of_lt hyd]
+
+theorem coe_algEquivPolynomial_symm_apply (p : ht.toIsField.toSubfield[X]) :
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/Transcendental/Field.lean]: (and throughout)
```suggestion
theorem coe_algEquivPolynomial_symm_apply (p : ht.toSubfield[X]) :
```

File: CombinatorialGames/Nimber/Transcendental/Field.lean [hunk 9]
```diff
@@ -0,0 +1,704 @@
...
+    letI := ht.algebraOpowOmega0
+    (ht.algEquivPolynomial.symm p : Nimber) = p.eval₂ ht.toIsField.toSubfield.subtype t := by
+  unfold algEquivPolynomial
+  rw [← ht.isRing_opow_omega0.toSubring.subtype_apply,
+    @AlgEquiv.symm_symm, @AlgEquiv.ofBijective_apply,
+    @aeval_def, ← eval_map, ← eval_map_apply, map_map, eval_map]
+  rfl
+
+@[expose]
+def ringEquivPolynomial : ht.isRing_opow_omega0.toSubring ≃+* ht.toIsField.toSubfield[X] :=
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/Transcendental/Field.lean]: docstring? and do we need this when we have `algEquivPolynomial`?

File: CombinatorialGames/Nimber/Transcendental/Field.lean [hunk 10]
```diff
@@ -0,0 +1,704 @@
...
+    (t - x)⁻¹ = ∗(val t ^ (ω * (1 + val x))) := by
+  rw [← pow_one (t - x), ← add_zero (ω * (1 + val x)), ← Nat.cast_zero, ← zero_add 1]
+  exact (ht.opow_omega_mul_one_add_add_natCast_eq hx 0).symm
+
+theorem isRing_opow_omega0_mul_one_add {x : Nimber} (hx : x ≤ t) :
+    IsRing (∗(val t ^ (ω * (1 + val x)))) :=
+  (ht.next_field_aux hx 0).2.1
+
+theorem isField_opow_omega0_mul_one_add_self :
+    IsField (∗(val t ^ (ω * (1 + val t)))) where
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/Transcendental/Field.lean:632]: You can simplify this expression to `val t ^ val t` under the assumption that `ω ^ ω ≤ t` and `IsField (∗(ω ^ ω))`. Can you leave that as a proof-wanted?

File: CombinatorialGames/Nimber/Transcendental/Field.lean (hunk 9 above)
Comment (plp127) [reply CombinatorialGames/Nimber/Transcendental/Field.lean]: It's because `algEquivPolynomial` only works when you have the algebra instance.

File: CombinatorialGames/Nimber/Transcendental/Field.lean [hunk 11]
```diff
@@ -0,0 +1,699 @@
...
+    ∃ a b, omega0 * a + Nat.cast b = o := by
+  obtain ⟨b, hb⟩ := lt_omega0.1 (mod_lt o omega0_ne_zero)
+  refine ⟨o / omega0, b, ?_⟩
+  rw [← hb, div_add_mod]
+
+public theorem Ordinal.one_le_of_lt {a b : Ordinal} (hab : a < b) : 1 ≤ b := by
+  rw [← zero_add 1, ← Order.succ_eq_add_one, Order.succ_le_iff]
+  exact (zero_le a).trans_lt hab
+
+public theorem Order.IsNormal.isBot_or_exists_le_succ_of_lt
```
Comment (plp127) [inline CombinatorialGames/Nimber/Transcendental/Field.lean]: This theorem name is wrong, the conclusion has `lt`, not `le` here.

File: CombinatorialGames/Nimber/SimplestExtension/Basic.lean [hunk 12]
```diff
@@ -356,19 +357,24 @@ protected theorem IsRing.iSup {ι} [Nonempty ι] {f : ι → Nimber} (H : ∀ i,
     (bdd : BddAbove (range f) := by apply Nimber.bddAbove_of_small) : IsRing (⨆ i, f i) :=
   .sSup (by simpa) (range_nonempty f) bdd
 
+theorem IsGroup.mul_le_of_forall_lt (h : IsGroup x) {y z : Nimber}
```
Comment (vihdzp) [inline CombinatorialGames/Nimber/SimplestExtension/Basic.lean:336]: I moved this theorem to a new PR #386 just to shrink the diff a bit.

**Comment by vihdzp** [comment]
LMK once you merge and address the various remarks.

**Comment by plp127** [comment]
> LMK once you merge and address the various remarks.

@vihdzp having addressed

File: CombinatorialGames/Nimber/Transcendental/Field.lean [hunk 13]
```diff
@@ -0,0 +1,704 @@
...
+          apply mul_ne_zero
+          · apply Multiset.prod_ne_zero
+            intro h
+            rw [Multiset.mem_map] at h
+            obtain ⟨i, hi, hit⟩ := h
+            exact ne_of_gt ((hmc i hi).trans (hcx.trans_le hx)) (sub_eq_zero.1 hit)
+          · apply pow_ne_zero
+            exact sub_ne_zero.2 (ne_of_gt (hcx.trans_le hx))
+    refine ⟨fun hx => ?_, hrr, hll⟩
+    have hy {y : Nimber} (hy : y < ∗(val t ^ (ω * (1 + val x)))) : (t - x) * y ≠ 1 := by
```
Comment (plp127) [inline CombinatorialGames/Nimber/Transcendental/Field.lean:504]: just discovered `Transcendental.linearIndependent_sub_inv`, I think this can be used to prove this `have` in a much easier way
